US07208490B2
Step 1: Preparation of 4-Bromo-2-fluoro-5-nitrobenzaldehyde:
Nitric acid (25 mL) is added dropwise to a solution of 4-bromo-2-fluorobenzaldehyde (5.12 g, 25.2 mmol) in sulfuric acid (25 mL). The mixture is stirred for 2 hours and then is poured over ice. Product is extracted into MTBE (100 mL). The organic layer is washed with saturated aqueous NaHCO3 (100 mL), dried (Na2SO4), and evaporated yielding 5.98 g of yellow solid. 1H NMR (DMSO-d6) δ 10.13, 8.49, 8.22.

reactant | Nitric acid | 25 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-bromo-2-fluorobenzaldehyde | 25.2 mmol, 5.12 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Bromo-2-fluoro-5-nitrobenzaldehyde | 5.98 g | BrC1=CC(=C(C=O)C=C1[N+](=O)[O-])F | C7H3BrFNO3
